US05798311
To 11.3 g (141 mmole) of 50% aqueous sodium hydroxide dissolved in 50 ml of methanol and cooled to -20° C. was added 7.7 g (160 mmole) of gaseous methyl mercaptan. To this solution was added 30.5 g (130 mmole) of 2-bromo-4'-chloroacetophenone dissolved in 40 g of tetrahydrofuran. After warming to room temperature and stirring for 30 minutes the mixture was concentrated in vacuo, partitioned between hexanes and water, dried over anhydrous magnesium sulfate, filtered, and reconcentrated in vacuo to yield 25.3 g of 2-methylthio-4'-chloroacetophenone, an oil.

reactant | sodium hydroxide | 141 mmole, 11.3 g | [OH-].[Na+]
reactant | methyl mercaptan | 160 mmole, 7.7 g | CS | CH4S
reactant | 2-bromo-4'-chloroacetophenone | 130 mmole, 30.5 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 40 g | O1CCCC1 | C4H8O
product | 2-methylthio-4'-chloroacetophenone | 25.3 g | CSCC(=O)C1=CC=C(C=C1)Cl | C9H9ClOS
